US07429665B2
(R)-1-{4-Pyridin-4-yl-3-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-propan-2-ol
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting (R)-1-Hydrazino-propan-2-ol provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.42 (m, 2 H), 8.18 (d, J=8.3 Hz, 1 H), 8.06 (d, J=8.4 Hz, 1 H), 7.81 (d, J=8.3 Hz, 1H), 7.73 (m, 1H), 7.66 (d, J=8.7 Hz, 1H), 7.61 (s, 1 H), 7.54 (m, 1H), 7.36 (d, J=9.1 Hz, 2 H), 7.12 (m, 2H), 6.99 (d, J=8.7 Hz, 2H) 5.37 (s, 2H), 4.30 (m, 1H), 4.21 (dd, J=13.6, 2.5 Hz, 1H), 4.03 (dd, J=13.6, 7.9 Hz, 1H), 1.26 (d, J=6.2 Hz, 3H); MS: (M+H m/z=437.2).

reactant | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | (R)-1-Hydrazino-propan-2-ol | N(N)C[C@@H](C)O | C3H10N2O
product | (R)-1-{4-Pyridin-4-yl-3-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-propan-2-ol | N1=CC=C(C=C1)C=1C(=NN(C1)C[C@@H](C)O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C27H24N4O2
